US04028370
Synthesis of 3-acetyl-2-isopropylpyrazolo[1,5-a]pyridine (KC-424)
A mixture of 4.2g of 2-isopropylpyrazolo[1,5-a]pyridine, 10.2g of acetic anhydride and 2-3 drops of concentrated sulfuric acid was refluxed for 7 hr. After cooling, the mixture was added to 200 ml of 4M potassium hydroxide solution and stirred for 1 hr. The solution was extracted with chloroform and the chloroform solution was dried over sodium sulfate. The dried chloroform solution was concentrated and the residue was column-chromatographed over alumina to isolate objective product. Recrystallization from n-hexane gave 4.3g of colorless needles, mp 74° C. Yield 67%.

reactant | 2-isopropylpyrazolo[1,5-a]pyridine | 4.2g | C(C)(C)C1=NN2C(C=CC=C2)=C1 | C10H12N2
reactant | acetic anhydride | 10.2g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 2-3 drops | S(O)(O)(=O)=O | H2O4S
solvent | potassium hydroxide | 4M, 200 ml | [OH-].[K+]
product | 3-acetyl-2-isopropylpyrazolo[1,5-a]pyridine | 4.3g, Yield 67% | C(C)(=O)C=1C(=NN2C1C=CC=C2)C(C)C | C12H14N2O
